US08076515B2
(S)-2-[4-(3-Fluorobenzyloxy)benzylamino]propanamide (Ia) is prepared by reacting 4-(3-fluorobenzyloxy)benzaldehyde (10 mmol), prepared as described in Example 14.1.a., and L-alaninamide hydrochloride (1.37 g, 11 mmol) followed by reduction with NaBH3CN (0.50 g, 8 mmol). After working up the reaction mixture and purification by flash-chromatography, (S)-2[4-(3-fluorobenzyloxy)benzylamino]propanamide is isolated as white solid in 68.7% yield. The product has HPLC purity of 96.2 (area %, see Example 17A) and a content of (S)-2-[3-(3-fluorobenzyl)-4-(3-fluorobenzyloxy)-benzylamino]propanamide (IIa) of 0.15% by weight (see Example 17B).

reactant | 4-(3-fluorobenzyloxy)benzaldehyde | 10 mmol | FC=1C=C(COC2=CC=C(C=O)C=C2)C=CC1 | C14H11FO2
reactant | L-alaninamide hydrochloride | 11 mmol, 1.37 g | Cl.N[C@@H](C)C(=O)N
reactant | NaBH3CN | 8 mmol, 0.50 g | [BH3-]C#N.[Na+]
product | (S)-2[4-(3-fluorobenzyloxy)benzylamino]propanamide | FC=1C=C(COC2=CC=C(CN[C@H](C(=O)N)C)C=C2)C=CC1 | C17H19FN2O2
